US08557843B2
p-Anisidine (0.43 g) and 6-bromo-4-chloroquinoline-3-carboxylic acid ethyl ester (1 g) were mixed in dioxane and irradiated in a microwave reactor at 150° C. for 30 minutes. The reaction mixture was diluted with petroleum ether. The solid product obtained was filtered and dried to give 1.3 g (100%) of ethyl 6-bromo-4-[(4-methoxyphenyl)amino]quinoline-3-carboxylate. 1H NMR (300 MHz, CDCl3) δ 11.41 (s, 1H, —NH—), 9.22 (s, 1H, aromatic), 8.20 (d, 1H, J=8.2 Hz, aromatic), 7.77 (d, 1H, J=8.2 Hz, aromatic), 7.64 (s, 1H, aromatic), 7.15 (d, 2H, J=8.1 Hz, aromatic), 6.99 (d, 2H, J=8.1 Hz, aromatic), 4.47 (q, 2H, J=7 Hz, —CH2—), 3.89 (s, 3H, —OCH3), 1.47 (t, 3H, J=7 Hz, —CH3); LC-MS (m/z) 401.0 (M+1).

reactant | p-Anisidine | 0.43 g | COC1=CC=C(C=C1)N | C7H9NO
reactant | 6-bromo-4-chloroquinoline-3-carboxylic acid ethyl ester | 1 g | C(C)OC(=O)C=1C=NC2=CC=C(C=C2C1Cl)Br | C12H9BrClNO2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | ethyl 6-bromo-4-[(4-methoxyphenyl)amino]quinoline-3-carboxylate | 1.3 g, 100% | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)OCC)NC1=CC=C(C=C1)OC | C19H17BrN2O3
